US08071592B2
7-fluoro-1-(2-{4-[([1,3]oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}ethyl)-2(1H)-quinolinone Dihydrochloride
A mixture of 1-[2-(4-amino-1-piperidinyl)ethyl]-7-fluoro-2(1H)-quinolinone (100 mg; 0.364 mmol) and [1,3]oxathiolo[5,4-c]pyridine-6-carbaldehyde (for a synthesis see WO2004058144, Example 61) (57 mg; 0.364 mmol) were dissolved in a 5:1 mixture of chloroform and methanol (5 ml: 1 ml) and stirred at rt under argon for 1 h. The mixture was then treated with NaBH(OAc)3 (231 mg; 1.092 mmol) and stirred for a further 1 h. The solvents were then removed and the crude residues purified by chromatography on silica gel using a 0-15% MeOH/DCM gradient to provide the title compound as free base (140 mg; 92%)

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-7-fluoro-2(1H)-quinolinone | 0.364 mmol, 100 mg | NC1CCN(CC1)CCN1C(C=CC2=CC=C(C=C12)F)=O | C16H20FN3O
reactant | [1,3]oxathiolo[5,4-c]pyridine-6-carbaldehyde | S1COC=2C=NC(=CC21)C=O | C7H5NO2S
reactant | NaBH(OAc)3 | 1.092 mmol, 231 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 5 ml | CO | CH4O
product | 7-fluoro-1-(2-{4-[([1,3]oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}ethyl)-2(1H)-quinolinone Dihydrochloride | Cl.Cl.FC1=CC=C2C=CC(N(C2=C1)CCN1CCC(CC1)NCC1=CC2=C(C=N1)OCS2)=O | InChI=1S/C23H25FN4O2S.2ClH/c24-17-3-1-16-2-4-23(29)28(20(16)11-17)10-9-27-7-5-18(6-8-27)25-13-19-12-22-21(14-26-19)30-15-31-22;;/h1-4,11-12,14,18,25H,5-10,13,15H2;2*1H
